US07947738B2
(7-e) Tert-butyl(±)-[(1S,5R,6R)-6-aminomethyl-3-methylbicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl(±)-[(1S,5R,6R)-3-methyl-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate (1.12 g, 3.99 mmol) was dissolved in ethanol (20 mL) and water (10 mL). To the solution, iron powder (892.8 mg, 15.9 mmol) and ammonium chloride (211.5 mg, 3.99 mmol) were added, and the mixture was stirred for 4 hours under heating to reflux. The mixture was allowed to cool, then diluted with saturated saline, a saturated aqueous solution of sodium bicarbonate, and ethyl acetate, and filtered through Celite to remove insoluble matter. The filtrate was separated into organic and aqueous layers. The organic layer was washed with saturated saline, then dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure. To the residue, a 4 N hydrochloric acid-ethyl acetate solution (5 mL) was added, and the mixture was stirred at room temperature for 1 hour. Then, the solvent was distilled off under reduced pressure. The residue was suspended in dichloromethane. To the suspension, triethylamine was added dropwise, and the resulting powder was collected by filtration, then washed with dichloromethane, and then dried to obtain the compound of interest as a white powder (105.8 mg, 28%).

reactant | Tert-butyl(±)-[(1S,5R,6R)-3-methyl-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | 3.99 mmol, 1.12 g | CC=1C[C@H]2C[C@@]([C@H]2C1)(C[N+](=O)[O-])CC(=O)OC(C)(C)C | C15H23NO4
reactant | ammonium chloride | 3.99 mmol, 211.5 mg | [Cl-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
catalyst | iron | 15.9 mmol, 892.8 mg | [Fe] | Fe
product | Tert-butyl(±)-[(1S,5R,6R)-6-aminomethyl-3-methylbicyclo[3.2.0]hept-3-en-6-yl]acetate | 105.8 mg, 28% | NC[C@@]1([C@H]2C=C(C[C@H]2C1)C)CC(=O)OC(C)(C)C | C15H25NO2
